US03989737
3-(4-chlorobenzoyloxy)-2-(N-ethoxypropionimidoyl)-5,5-dimethyl-2-cyclohexene-1-one
The same reaction procedures as Example 1 were carried out by using 2.4 g of 2-[1-(N-ethoxyamino)propylidene]-5,5-dimethylcyclohexane-1,3-dione and 1.75 g of 4-chlorobenzoylchloride, and chloroform was distilled off under reduced pressure and thereby the desired product as a white crystal was obtained after recrystallization the residual material from n-hexane.

reactant | 2-[1-(N-ethoxyamino)propylidene]-5,5-dimethylcyclohexane-1,3-dione | 2.4 g | C(C)ONC(CC)=C1C(CC(CC1=O)(C)C)=O | C13H21NO3
reactant | 4-chlorobenzoylchloride | 1.75 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-chlorobenzoyloxy)-2-(N-ethoxypropionimidoyl)-5,5-dimethyl-2-cyclohexene-1-one | ClC1=CC=C(C(=O)OC2=C(C(CC(C2)(C)C)=O)C(CC)=NOCC)C=C1 | C20H24ClNO4
